US20010049371A1
3-(3-Ethoxy-4-methoxyphenyl)-N-hydroxy-3-(4-methylphthalimido)propionamide was prepared by the procedure of Example 1 from 3-(3-ethoxy-4-methoxyphenyl)-3-(4-methyl-phthalimido)propanoic acid (2.40 g, 6.26 mmol), N,N′-carbonyldiimidazole (1.12 g, 6.91 mmol) and hydroxylamine hydrochloride (530 mg, 7.62 mmol) in tetrahydrofuran (8 mL) to afford 3-(3-ethoxy-4-methoxyphenyl)-N-hydroxy-3-(4-methylphthalimido)-propionamide as a white solid (2.19 g, 88% yield): mp, 180.0-181.5° C.; 1H NMR (DMSO-d6) δ1.31 (t, J=6.9 Hz, 3H, CH3), 2.49 (s, 3H, CH3), 3.09 (d, J=7.9 Hz, 2H, CH2), 3.71 (s, 3H, CH3), 3.97 (q, J=7.0 Hz, 2H, CH2), 5.65 (t, J=7.9 Hz, 1H, NCR), 6.89 (br s, 2H, Ar), 7.01 (br s, 1H, Ar), 7.61-7.74 (m, 3H, Ar), 8.78 (br s, 1H, OH), 10.57 (br s, 1H, NH); 13C NMR (DMSO-d6) δ14.67, 21.33, 34.31, 50.14, 55.45, 63.72, 111.75, 112.33, 119.61, 123.03, 123.52, 128.63, 131.32, 131.61, 134.88, 145.54, 147.67, 148.52, 166.02, 167.62, 167.73; Anal Calcd for C21H22N2O6: C, 63.31; H, 5.57; N, 7.03. Found: C, 63.29; H, 5.69; N, 6.86.

reactant | 3-(3-ethoxy-4-methoxyphenyl)-3-(4-methyl-phthalimido)propanoic acid | 6.26 mmol, 2.40 g | C(C)OC=1C=C(C=CC1OC)C(CC(=O)O)N1C(C=2C(C1=O)=CC(=CC2)C)=O | C21H21NO6
reactant | hydroxylamine hydrochloride | 7.62 mmol, 530 mg | Cl.NO
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 3-(3-ethoxy-4-methoxyphenyl)-N-hydroxy-3-(4-methylphthalimido)-propionamide | 2.19 g, 88% yield | C(C)OC=1C=C(C=CC1OC)C(CC(=O)NO)N1C(C=2C(C1=O)=CC(=CC2)C)=O | C21H22N2O6
